US07459554B2
4-{8-Amino-1-[3-(2,6-difluoro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-3-yl}-cyclohexanecarboxylic acid:
The saponification procedures applied to the synthesis of trans-4-[8-Amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid was applied to 4-{8-Amino-1-[3-(2,6-difluoro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-3-yl}-cyclohexanecarboxylic acid methyl ester to afford the title compound; MS (ES+): m/z 479.10 [MH+].

reactant | trans-4-[8-Amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)C(=O)O | C26H26N4O3
reactant | 4-{8-Amino-1-[3-(2,6-difluoro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-3-yl}-cyclohexanecarboxylic acid methyl ester | COC(=O)C1CCC(CC1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=C(C=CC=C2F)F | C27H26F2N4O3
product | 4-{8-Amino-1-[3-(2,6-difluoro-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-3-yl}-cyclohexanecarboxylic acid | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=C(C=CC=C2F)F)C2CCC(CC2)C(=O)O | C26H24F2N4O3
